US07829584B2
3-amino-benzo[d]isoxazole-6-carbonitrile
To a solution of 1 M potassium tert-butoxide in THF (11.0 mL, 11.0 mmol) was added acetone oxime (0.824 g, 11.3 mmol) in one portion. After stirring for 20 min at room temperature, a solution of 2-fluoro-terephthalonitrile (1.48 g, 10.1 mmol) in THF (11 mL) was slowly added through a syringe. The reaction mixture warmed up and turned into a red solution. After stirring for 1.5 hrs at room temperature, the mixture was heated at 60° C. for 1 hr. The reaction was quenched with a mixture of saturated ammonium chloride solution and water (1:1, 10 mL). THF was removed by rotary evaporation. The reaction mixture was then partitioned between ethyl acetate (30 mL) and brine (20 mL). The organic layer was separated and dried over anhydrous sodium sulfate. The solvent was then removed in vacuo to provide a yellow solid. The solid was then treated with a mixture of EtOH (22 mL) and HCl (1 N, 14 mL) at reflux for 1.5 hrs. After cooling to room temperature, the reaction mixture was basified with solid sodium carbonate and partitioned between ethyl acetate (100 mL) and water (20 mL). The aqueous layer was further extracted with ethyl acetate (2×25 mL). All organic layers were combined and extracted with water (3.25 mL), brine (30 mL) then dried over anhydrous sodium sulfate. Rotary evaporation of solvent afforded a light brown solid. LC/MS (ESI) showed the desired mass (M+H++CH3CN: 201.1). All crude was dissolved in minimum amount of MeOH/DCM (5:95) and loaded onto a silica column. The product was eluted with (2 M NH3 in MeOH)/DCM (5:95). A light brown solid was obtained (1.01 g).

reactant | potassium tert-butoxide | 1 M | CC(C)([O-])C.[K+]
reactant | acetone oxime | 11.3 mmol, 0.824 g | CC(C)=NO | C3H7NO
reactant | 2-fluoro-terephthalonitrile | 10.1 mmol, 1.48 g | FC1=C(C#N)C=CC(=C1)C#N | C8H3FN2
reactant | HCl | 1 N, 14 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | MeOH DCM | CO.C(Cl)Cl
solvent | THF | 11.0 mmol, 11.0 mL | C1CCOC1 | C4H8O
solvent | EtOH | 22 mL | CCO | C2H6O
product | 3-amino-benzo[d]isoxazole-6-carbonitrile | NC1=NOC2=C1C=CC(=C2)C#N | C8H5N3O
